US05716544
(1) Preparation of 4-decanoyloxy-2-fluorobenzoic Acid
15.6 Grams (0.1 mol) of 4-hydroxy-2-fluorobenzoic acid was dissolved in 140 ml of dichloromethane. To this solution were consecutively added 16 ml of triethylamine, 20.1 g (0.11 mol) of n-decanoic acid chloride and 0.97 g (0.0079 mol) of dimethylaminopyridine, and the mixture was stirred at room temperature for a whole day and night. To this was added 50 ml of 10% hydrochloric acid, and the mixture was extracted with 100 ml of ether three times. An organic layer was washed with 100 ml of a sodium chloride aqueous solution three times, and then dried over anhydrous sodium sulfate. The solvent was distilled off, and then the residue was washed with 400 ml of hexane to give 25,5 g (yield 82%) of the intended product.

reactant | 4-hydroxy-2-fluorobenzoic acid | 0.1 mol | OC1=CC(=C(C(=O)O)C=C1)F | C7H5FO3
reactant | triethylamine | 16 ml | C(C)N(CC)CC | C6H15N
reactant | n-decanoic acid chloride | 0.11 mol, 20.1 g | C(CCCCCCCCC)(=O)Cl | C10H19ClO
reactant | hydrochloric acid | 50 ml | Cl | ClH
solvent | dichloromethane | 140 ml | ClCCl | CH2Cl2
catalyst | dimethylaminopyridine | 0.0079 mol, 0.97 g | CN(C)C1=NC=CC=C1 | C7H10N2
product | 4-decanoyloxy-2-fluorobenzoic Acid | 25,5 g, yield 82% | C(CCCCCCCCC)(=O)OC1=CC(=C(C(=O)O)C=C1)F | C17H23FO4
